US07449467B2
(3S)-3-[(tert-Butoxycarbonyl)amino]-1-(1-hydroxy-1-methylethyl)cyclopentanecarboxylic acid
To a solution of methyl (3S)-3-[(tert-butoxycarbonyl)amino]-1-(1-hydroxy-1-methylethyl)cyclopentanecarboxylate (1.0 g, 3.3 mmol) in a mixture of tetrahydrofuran (30 mL), methanol (30 mL) and water (6 mL) was added Lithium hydroxide monohydrate (0.22 g, 5.3 mmol) and the mixture refluxed overnight (110° C.). The organic solvents were evaporated and the aqueous layer was washed with ether one time. The aqueous layer was then acidified with 6 N HCl to about pH 4 and extracted with methylene chloride three times. The combined extracts were dried, filtered, and concentrated to provide the desired product (0.47 g, 49%).

reactant | methyl (3S)-3-[(tert-butoxycarbonyl)amino]-1-(1-hydroxy-1-methylethyl)cyclopentanecarboxylate | 3.3 mmol, 1.0 g | C(C)(C)(C)OC(=O)N[C@@H]1CC(CC1)(C(=O)OC)C(C)(C)O | C15H27NO5
reactant | methanol | 30 mL | CO | CH4O
reactant | water | 6 mL | O | H2O
reactant | Lithium hydroxide monohydrate | 5.3 mmol, 0.22 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (3S)-3-[(tert-Butoxycarbonyl)amino]-1-(1-hydroxy-1-methylethyl)cyclopentanecarboxylic acid | 0.47 g, 49% | C(C)(C)(C)OC(=O)N[C@@H]1CC(CC1)(C(=O)O)C(C)(C)O | C14H25NO5
